US07910592B2
Aluminium trichloride (146 mg, 1.09 mmol) was added to dry toluene (2 mL) at 0° C. Methyl 5-[(isopropoxycarbonyl)amino]indane-4-carboxylate (76 mg, 0.274 mmol) was added portionwise as a powder to the mixture above. The thick suspension was stirred at room temperature for 15 min and heated at 80° C. for 6 h. The mixture was poured into ice water and extracted with EtOAc (3×). The combined organic layers were dried (Na2SO4) and concentrated in vacuo to afford methyl 5-aminoindane-4-carboxylate. LCMS calc.=192.1; found=192.2 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.14 (d, J=8.1 Hz, 1H); 6.55 (d, J=8.1 Hz, 1H); 3.88 (s, 3H); 3.17 (t, J=7.5 Hz, 2H); 2.82 (t, J=7.5 Hz, 2H); 2.05-1.98 (m, 2H).

reactant | Aluminium trichloride | 1.09 mmol, 146 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Methyl 5-[(isopropoxycarbonyl)amino]indane-4-carboxylate | 0.274 mmol, 76 mg | C(C)(C)OC(=O)NC1=C(C=2CCCC2C=C1)C(=O)OC | C15H19NO4
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 5-aminoindane-4-carboxylate | NC1=C(C=2CCCC2C=C1)C(=O)OC | C11H13NO2
